US07635715B2
Step C: Preparation of Ethyl 7,8-dichloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate
P2O5 (5.00 g, 35 mmol) was treated with H2SO4 (4.5 mL, 81 mmol) at 0° C. in a 100 mL round bottom flask. Diethyl 2-(2-(2,3-dichlorophenyl)-2-methylpropanoyl)malonate (0.500 g, 1.0 mmol) was added, and the mixture was stirred at 25° C. for 1.5 hours. The reaction was quenched with ice, extracted with EtOAc (2×50 mL), and the combined organic layers were washed with brine (50 mL). The organic layers were then dried over MgSO4, concentrated, and dried in vacuo to give the title compound (0.235 g). MS m/e=329 (M+H)+.

reactant | P2O5 | 35 mmol, 5.00 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | H2SO4 | 81 mmol, 4.5 mL | OS(=O)(=O)O | H2O4S
reactant | Diethyl 2-(2-(2,3-dichlorophenyl)-2-methylpropanoyl)malonate | 1.0 mmol, 0.500 g | ClC1=C(C=CC=C1Cl)C(C(=O)C(C(=O)OCC)C(=O)OCC)(C)C | C17H20Cl2O5
product | Ethyl 7,8-dichloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate | 0.235 g | ClC1=CC=C2C(=C(C(C(C2=C1Cl)(C)C)=O)C(=O)OCC)O | C15H14Cl2O4
